US04820705
3-(2-Benzenesulphonamido-indan-5-yl)-butyric acid
2.4 g of methyl 3-(2-benzenesulphonamido-indan-5-yl)-butyrate are dissolved in 10 ml of ethanol, 2 ml of 15N sodium hydroxide solution are added, and saponification is carried out by boiling for 1 hour. The mixture is evaporated, the residue is dissolved in water, and the free acid is precipitated as a foamy material by adding hydrochloric acid.

reactant | methyl 3-(2-benzenesulphonamido-indan-5-yl)-butyrate | 2.4 g | C1(=CC=CC=C1)S(=O)(=O)NC1CC2=CC=C(C=C2C1)C(CC(=O)OC)C | C20H23NO4S
solvent | ethanol | 10 ml | C(C)O | C2H6O
product | 3-(2-Benzenesulphonamido-indan-5-yl)-butyric acid | C1(=CC=CC=C1)S(=O)(=O)NC1CC2=CC=C(C=C2C1)C(CC(=O)O)C | C19H21NO4S
